US07547691B2
Racemic 2-{5-Chloro-2-[3-(2-isopropyl-4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from racemic 2-{5-chloro-2-[3-(2-isopropyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 527 (35Cl) and 529 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | racemic 2-{5-chloro-2-[3-(2-isopropyl-piperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2C(CNCC2)C(C)C | C26H33ClN6OS
product | Racemic 2-{5-Chloro-2-[3-(2-isopropyl-4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2C(CN(CC2)C)C(C)C | InChI=1S/C27H35ClN6OS.3ClH/c1-17(2)22-16-33(3)12-13-34(22)11-5-10-29-27-30-15-21(28)25(32-27)24-14-20-19(6-4-7-23(20)36-24)26(35)31-18-8-9-18;;;/h4,6-7,14-15,17-18,22H,5,8-13,16H2,1-3H3,(H,31,35)(H,29,30,32);3*1H
